US07709496B2
(b) 3-Oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid
0.5 M NaOH solution (8 mL, 4 mmole) was added dropwise over 2 hr to a solution of methyl 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylate (788 mg, 3.52 mmole) in dioxane (120 mL) and water (30 mL). The reaction was stirred overnight then was concentrated to about 3 mL. Water (5 mL) was added and the pH was adjusted to 4 with 2 M HCl. The precipitated solid was collected, washed with a small volume of water and dried under vacuum to give the title compound (636 mg, 86%) as a solid: MS (APCI−) m/e 209 (M−H)−, 165 (M-COOH)−.

reactant | NaOH | 4 mmole, 0.5 M, 8 mL | [OH-].[Na+]
reactant | methyl 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylate | 3.52 mmole, 788 mg | O=C1NC2=C(SC1)C=CC(=N2)C(=O)OC | C9H8N2O3S
solvent | dioxane | 120 mL | O1CCOCC1 | C4H8O2
solvent | water | 30 mL | O | H2O
product | 3-Oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid | 636 mg, 86% | O=C1NC2=C(SC1)C=CC(=N2)C(=O)O | C8H6N2O3S
